US08426411B2
To a solution of (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine (0.080 g, 0.19 mmol, Preparation #BB.1*) in THF (2 mL) was added TEA (0.079 mL, 0.565 mmol) and the solution was stirred at ambient temperature for about 10 min. To the reaction was added isopropyl chloroformate (1 M in toluene, 0.18 mL, 0.18 mmol) and the reaction mixture was stirred for about 1 h. The solvent was removed under reduced pressure and DCM (5 mL) and saturated aqueous NaHCO3 (2 mL) were added. The layers were separated and the organic layer was washed with brine (2 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give crude isopropyl (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylcarbamate (0.080 g, 60%) which was used without further purification: LC/MS (Table 1, Method b) Rt=2.33 min; MS m/z: 511 (M+H)+.

reactant | (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.19 mmol, 0.080 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)N | C21H24N6O2S
reactant | isopropyl chloroformate | 0.18 mmol, 1 M, 0.18 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | isopropyl (1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylcarbamate | 0.080 g, 60% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NC(OC(C)C)=O | C25H30N6O4S
